US04469872
To 4-hydroxy-5-[4-(4-trifluoromethylphenoxy)phenoxy]-2-hexanone (3.5 mmol) and pyridine (3.5 mmol) in benzene (20 ml) is added acetyl chloride (4.0 mmol). The mixture is stirred at RT overnight. The reaction mixture is diluted with benzene, washed with water, dried and the solvent is removed in vacuo to give 4-acetoxy-5-[4-(4-trifluoromethylphenoxy)phenoxy]-2-hexanone (cpd. 10, Table B).

reactant | 4-hydroxy-5-[4-(4-trifluoromethylphenoxy)phenoxy]-2-hexanone | 3.5 mmol | OC(CC(C)=O)C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F | C19H19F3O4
reactant | pyridine | 3.5 mmol | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 4.0 mmol | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 4-acetoxy-5-[4-(4-trifluoromethylphenoxy)phenoxy]-2-hexanone | C(C)(=O)OC(CC(C)=O)C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F | C21H21F3O5
